US09388176B2
3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)-N-(3-isopropylphenyl)benzamide
To a mixture of 3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)benzoic acid (15.0 mg, 0.059 mmol), triethylamine (0.016 mL, 0.12 mmol) and catalytic DMAP in 1.0 mL 1,2-dichloroethane at rt was added propylphosphonic anhydride solution (50 wt % in EtOAc, 0.046 mL, 0.077 mmol). After 8 min at rt, 3-isopropylaniline (0.015 mL, 0.106 mmol) was added and the reaction stirred at rt for 18 hours. Then additional 3-isopropylaniline (0.015 mL) and propylphosphonic anhydride solution (0.030 mL) was added and the reaction continued for an additional 3 hours. The reaction was quenched into brine/dilute aqueous Na2CO3 solution, extracted with EtOAc, the EtOAc layer washed with H2O, brine/dilute aqueous Na2CO3 solution, dried with anhydrous Na2SO4 and rotary evaporated to an oil. The oil was chromatographed eluting with CHCl3/EtOAc to give the title compound as a light yellow solid (13 mg, 57%). 1H NMR (CDCl3) δ: 8.42 (s, 1H), 8.38 (d, J=5.0 Hz, 1H), 7.94 (s, 1H), 7.55-7.57 (m, 2H), 7.47 (ddd, J=8.1, 2.2, 1.2 Hz, 1H), 7.34-7.40 (m, 1H), 7.29 (t, J=7.8 Hz, 1H), 7.21-7.26 (m, 1H), 7.08-7.14 (m, 2H), 7.01-7.05 (m, 1H), 4.46 (s, 2H), 3.63 (t, J=5.9 Hz, 2H), 2.85-3.02 (m, 3H), 1.27 (d, J=7.0 Hz, 6H).

reactant | 3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)benzoic acid | 0.059 mmol, 15.0 mg | C1N(CCC2=CC=NC=C12)C=1C=C(C(=O)O)C=CC1 | C15H14N2O2
reactant | triethylamine | 0.12 mmol, 0.016 mL | C(C)N(CC)CC | C6H15N
reactant | propylphosphonic anhydride | 0.077 mmol, 0.046 mL | CCCP(=O)=O | C3H7O2P
reactant | 3-isopropylaniline | 0.106 mmol, 0.015 mL | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
reactant | 3-isopropylaniline | 0.015 mL | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
reactant | propylphosphonic anhydride | 0.030 mL | CCCP(=O)=O | C3H7O2P
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 1.0 mL | ClCCCl | C2H4Cl2
product | 3-(3,4-dihydro-2,7-naphthyridin-2(1H)-yl)-N-(3-isopropylphenyl)benzamide | 13 mg, 57% | C1N(CCC2=CC=NC=C12)C=1C=C(C(=O)NC2=CC(=CC=C2)C(C)C)C=CC1 | C24H25N3O
